US05723165
To a suspension of 1.20 g (1.99 mmols) of N-benzyloxycarbonyl-β-benzyl-L-aspartyl-D-valine (R)-α-ethoxymethylbenzylamide in 50 ml of methanol and 10 ml of water was added 0.30 g of 10% Pd-carbon (water content 50%). The mixture was reduced under hydrogen under heat at 40°C., 40 ml of water was added thereto, the catalyst was removed by filtration, and the resulting filtrate was concentrated under reduced pressure to 5 ml. The crystal thus precipitated was removed by filtration and dried to obtain 0.38 g (1.00 mmol, 50.3%) of α-L-aspartyl-D-valine (R)-α-ethoxymethylbenzylamide.

reactant | N-benzyloxycarbonyl-β-benzyl-L-aspartyl-D-valine (R)-α-ethoxymethylbenzylamide | 1.99 mmols, 1.20 g | C(C)OC[C@@H](C1=CC=CC=C1)NC([C@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C(O)=O)CC1=CC=CC=C1)=O)C(C)C)=O | C34H41N3O7
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
catalyst | Pd carbon | 0.30 g | [Pd].[C]
solvent | water | 40 ml | O | H2O
product | α-L-aspartyl-D-valine (R)-α-ethoxymethylbenzylamide | 1.00 mmol, 0.38 g, 50.3% | C(C)OC[C@@H](C1=CC=CC=C1)NC([C@H](NC([C@@H](N)CC(O)=O)=O)C(C)C)=O | C19H29N3O5
